US08106077B2
Ethyl 4,4,4-trifluoro-2-(triphenylphosphoranylidene)acetoacetate
To a 2° C. suspension of (carbethoxymethyl) triphenylphosphonium bromide (1000 g, 2.28 mol) in 5 L of THF under nitrogen is added triethylamine (642 mL, 4.57 mol). After the mixture is stirred for 30 minutes at 2° C., trifluoroacetic acid anhydride (357 mL, 2.51 mol) is added via addition funnel over 40 minutes. The mixture is allowed to stir for 2 hours and the precipitate is filtered off. The filtrate liquids are concentrated under reduced pressure to afford a yellow oily residue. The residue is triturated with water (3 L) to afford a crystalline solid that is collected by filtration. The solid is washed with water and dried under vacuum overnight. The solid is recrystallized from MeOH-water to give the title compound as a white solid (770 g, 76%). ES/MS m/e 446 (M+1).

reactant | (carbethoxymethyl) triphenylphosphonium bromide | 2.28 mol, 1000 g | [Br-].C(=O)(OCC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 4.57 mol, 642 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 2.51 mol, 357 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 5 L | C1CCOC1 | C4H8O
product | Ethyl 4,4,4-trifluoro-2-(triphenylphosphoranylidene)acetoacetate | 770 g, 76% | FC(C(C(C(=O)OCC)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)(F)F | C24H20F3O3P
